US05236620
65 ml of a solution of 0.1 mol of n-butyllithium in hexane is added at -100° C. to a mixture of 0.1 mol of 4- propoxy-2,3-difluorobenzene, 0.09 mol of potassium tert.butylate and 250 ml of tetrahydrofuran. After stirring for 10 minutes a mixture of 0.1 mole of trans-4-(trans-4-propylcyclohexylethyl)-cyclohexylethyl iodide, 0.1 mol of N,N-dimethylpropyleneurea and 100 ml of tetrahydrofuran is added to the mixture. Stirring for 1 hour at -85° C., warming up to -40° C. and working up in the customary manner gives trans-4-(2-(4-propoxy-2,3-difluorophenyl)-ethyl)-1-(2-(trans-4-propylcyclohexyl)ethyl)-cyclohexane.

reactant | n-butyllithium | 0.1 mol | C(CCC)[Li]
reactant | 4- propoxy-2,3-difluorobenzene | 0.1 mol | C(CC)OC1=C(C(=CC=C1)F)F | C9H10F2O
reactant | trans-4-(trans-4-propylcyclohexylethyl)-cyclohexylethyl iodide | 0.1 mole | C(CC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CCI | C19H35I
reactant | N,N-dimethylpropyleneurea | 0.1 mol | CC1CN1C(=O)N(C)C | C6H12N2O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | trans-4-(2-(4-propoxy-2,3-difluorophenyl)-ethyl)-1-(2-(trans-4-propylcyclohexyl)ethyl)-cyclohexane | C(CC)OC1=C(C(=C(C=C1)CC[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)CCC)F)F | C28H44F2O
